US04680402
[2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(2,4-dichlorophenyl)methanone
Proceeding as indicated in example 2, with 0.053 mole (17.5 g) of 2,2',4'-trichloro-5-nitro-benzophenone, 0.088 mole (8.8 g) of 4-methylpiperidine and 0.0712 mole (9.8 g) of calcium carbonate in 50 cm3 of ethanol, 15.5 g (Yield: 75%) of the expected product are obtained after re-crystallization in a mixture of isopropyl ether and toluene (70 v./30 v.) M.P.: 103° C.

reactant | 2,2',4'-trichloro-5-nitro-benzophenone | 0.053 mole, 17.5 g | ClC1=C(C(=O)C2=C(C=C(C=C2)Cl)Cl)C=C(C=C1)[N+](=O)[O-] | C13H6Cl3NO3
reactant | 4-methylpiperidine | 0.088 mole, 8.8 g | CC1CCNCC1 | C6H13N
reactant | calcium carbonate | 0.0712 mole, 9.8 g | C([O-])([O-])=O.[Ca+2]
solvent | ethanol | 50 cm3 | C(C)O | C2H6O
product | [2-(4-methyl-1-piperidinyl)-5-nitrophenyl]-(2,4-dichlorophenyl)methanone | 15.5 g, Yield: 75% | CC1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)C1=C(C=C(C=C1)Cl)Cl | C19H18Cl2N2O3
